US08859580B2
(2R,6R,11S)-3-(3H-Benzoimidazole-5-carbonyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carboxylic acid dimethylamide
2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (90 mg) is added to a solution of (2R,6R,11S)-3-(3H-benzoimidazole-5-carbonyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carboxylic acid benzoic acid (0.10 g) and ethyldiisopropylamin (53 μL) in dimethylformamide (2 mL). The resulting solution is stirred at ambient temperature for 20 min before dimethylamine (40% in H2O, 60 μL) is added. The solution is stirred overnight. The mixture is concentrated under reduced pressure and the residue is purified by HPLC on reversed phase (H2O/MeCN/NH3) to give the product as a solid.

reactant | 2-(1H-Benzotriazol-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 90 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | (2R,6R,11S)-3-(3H-benzoimidazole-5-carbonyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carboxylic acid benzoic acid | 0.10 g | C(C1=CC=CC=C1)(=O)O.N1=CNC2=C1C=CC(=C2)C(=O)N2[C@@H]1CC3=C([C@](CC2)([C@@H]1C)C)C=C(C=C3)C(=O)O
reactant | ethyldiisopropylamin | 53 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | dimethylamine | 60 μL | CNC | C2H7N
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (2R,6R,11S)-3-(3H-Benzoimidazole-5-carbonyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(C[C@H]3N(CC[C@@]2([C@@H]3C)C)C(=O)C3=CC2=C(N=CN2)C=C3)C=C1)C | C25H28N4O2
